US04386221
A mixture of 2.3 g (0.02 mole) of methanesulfonyl chloride, 20 ml (0.16 mole) of p-xylene, and 3.1 g (0.023 mole) of AlCl3 was stirred for one hour at 25° C. The product was worked up as described above in Example 1. 2,5-dimethylchlorobenzene was obtained in a 70% yield. NMR and VPC analysis of the crude product showed the presence of less than 1% of 2,5-dimethylphenyl methyl sulfone.

reactant | methanesulfonyl chloride | 0.02 mole, 2.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | p-xylene | 0.16 mole, 20 ml | CC=1C=CC(=CC1)C | C8H10
reactant | AlCl3 | 0.023 mole, 3.1 g | [Al+3].[Cl-].[Cl-].[Cl-]
product | 2,5-dimethylchlorobenzene | 70% yield | CC1=C(C=C(C=C1)C)Cl | C8H9Cl
